US05684022
A mixture of 2-chloro-4-(2-2H-1,2,3-triazolyl)methylphenyl 2,2-dimethylpropanoate (3 g), 20% aqueous sodium hydroxide solution (10 ml)and ethanol (60 ml) was heated at reflux for 5 hours. The reaction mixture was then concentrated under reduced pressure, to which water was added, and the mixture was adjusted to pH 6.0 with concentrated hydrochloric acid. This mixture was extracted with ethyl acetate. The organic layer was washed with water, dried with anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography, which afforded 2-chloro-4-(2-2H-1,2,3-triazolylmethyl)phenol.

reactant | 2-chloro-4-(2-2H-1,2,3-triazolyl)methylphenyl 2,2-dimethylpropanoate | 3 g | CC(C(=O)OC1=C(C=C(C=C1)CN1N=CC=N1)Cl)(C)C | C14H16ClN3O2
reactant | sodium hydroxide | 10 ml | [OH-].[Na+]
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 2-chloro-4-(2-2H-1,2,3-triazolylmethyl)phenol | ClC1=C(C=CC(=C1)CN1N=CC=N1)O | C9H8ClN3O
